US04666932
N-Cyano-N'-[2-methyl-4-(imidazol-4-yl)-phenyl]-formamidine
A solution of 4-(3-Methyl-4-amino-phenyl)-1-H-imidazole (15.9 g) and N-Cyano-ethylformimidate (9 g) in ethanol (100 ml) was stirred overnight at room temperature. The solid which crystallized out was filtered off and dried to give 11.3 of the desired compound. M.p. 200°-202° C.

reactant | 4-(3-Methyl-4-amino-phenyl)-1-H-imidazole | 15.9 g | CC=1C=C(C=CC1N)C=1N=CNC1 | C10H11N3
reactant | N-Cyano-ethylformimidate | 9 g | C(#N)N=C([O-])CC
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-Cyano-N'-[2-methyl-4-(imidazol-4-yl)-phenyl]-formamidine | C(#N)NC=NC1=C(C=C(C=C1)C=1N=CNC1)C | C12H11N5
